US05741926
4-((-2-((2-Fluorophenyl)amino)acetyl)amino)-1-nitrobenzene (Compound CO)
A solution of 4-((bromoacetyl)amino)nitrobenzene (12.0 g, 46.3 mmol) and 2-fluoroaniline (11.0 g, 102 mmol) in anhydrous DMF (60 mL) was heated to 90°-100° C. for 2 days with stirring under N2. The solution was cooled, poured into 500 mL of ice-water, and then extracted with CH2Cl2 (200 mL). The organic layer was dried (MgSO4) and filtered, a small amount of silica gel was added to the CH2 Cl2 solution, and then the mixture was concentrated. Purification by chromatography, eluting with hexane-ethyl acetate (3:1), afforded 8.54 g (63.7%) of the title compound as yellow crystals, mp 150°-153° C.; 1H NMR (DMSO-d6) δ10.65 (s, 1H), 8.22 (d, J=9.2, 2H), 7.86 (d, J=9.2, 2H), 7.04 (ddd, J=9.6, J=8.4, J=1.6, 1H), 6.94 (dt, J=7.2, J=1.2, 1H), 6.65-6.61 (m, 2H), 5.80 (bs, 1H), 4.02 (s, 2H); 13C NMR (DMSO-d6) δ170.06, 150.91 (d, J=236), 144.99, 142.23, 136.31 (d, J=11.3), 124.98, 124.75 (d, J=3.5), 118.90, 116.36 (d, J=6.4), 114.44 (d, J=17.6), 112.17 (d, J=14.0), 46.79; MS (El, m/z) 289 (M+). Anal. Calcd for C14H12N3 O3F: C, 58.12; H, 4.18; N, 14.53. Found: C, 58.04; H, 4.20; N, 14.36.

reactant | 4-((bromoacetyl)amino)nitrobenzene | 46.3 mmol, 12.0 g | BrCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7BrN2O3
reactant | 2-fluoroaniline | 102 mmol, 11.0 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-((-2-((2-Fluorophenyl)amino)acetyl)amino)-1-nitrobenzene | 8.54 g, 63.7% | FC1=C(C=CC=C1)NCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C14H12FN3O3
